US08309540B2
Step 2: Ethyl (3E)-3-[(4-bromo-3-methoxyphenyl)imino]-3-ethoxypropanoate
A mixture of ethyl 3-ethoxy-3-iminopropanoate hydrochloride (54.2 g, 277 mmol) and 4-bromo-3-methoxyaniline (56.0 g, 277 mmol) in EtOH (500 mL) was stirred under nitrogen, at 22° C., for 20 hours. The mixture was filtered and concentrated, then stirred in ether (100 mL), filtered and concentrated. The residue was chromatographed on silica gel 60 (gradient elution, 0-50% EtOAc in hexane) to give the title product. 1H NMR (400 MHz, CDCl3) δ 7.40 (d, J=8.4 Hz, 1H); 6.43 (d, J=2.0 Hz, 1H); 6.30 (dd, J=8.4 & 2.4 Hz, 1H); 4.28 (q, J=7.1 Hz, 2H); 4.15 (q, J=7.1 Hz, 2H); 3.85 (s, 2H); 3.21 (s, 2H); 1.34 (t, J=7.2 Hz, 3H); 1.26 (t, J=7.0 Hz, 3H) ppm. LRMS (ESI) m/z 344.0 [(M+H)+; calcd for C14H19BrNO4: 344.0].

reactant | ethyl 3-ethoxy-3-iminopropanoate hydrochloride | 277 mmol, 54.2 g | Cl.C(C)OC(CC(=O)OCC)=N
reactant | 4-bromo-3-methoxyaniline | 277 mmol, 56.0 g | BrC1=C(C=C(N)C=C1)OC | C7H8BrNO
solvent | EtOH | 500 mL | CCO | C2H6O
product | Ethyl (3E)-3-[(4-bromo-3-methoxyphenyl)imino]-3-ethoxypropanoate | BrC1=C(C=C(C=C1)\N=C(/CC(=O)OCC)\OCC)OC | C14H18BrNO4
